US08124776B2
Add NBS (7.37 g, 40.99 mmoles) to the solution of diethyl-carbamic acid 2-(4-methoxy-phenyl)-benzo[b]thiophen-6-yl ester in THF at ambient temperature. Stir the mixture for 20 minutes. Distill the resulting solution to 47 mL. Add Methanol (15 mL) to the distilled solution and cool the solution to 50° C. Add seed crystals of Example 2 (340 mg, 0.8 mmoles) to the cooled solution and stir the mixture for 15 minutes. Slowly add water (35 mL). Allow the mixture to cool to ambient temperature, and hold at ambient temperature for one hour. Collect the product by vacuum filtration, wash with aqueous THF (30 mL, 2 water: 1 THF) and dry in a vacuum oven to yield diethyl-carbamic acid 3-bromo-2-(4-methoxy-phenyl)-benzo[b]thiophen-6-yl ester. Yield 15.75 g (36.26 mmol, 93% of theory).

reactant | NBS | 40.99 mmoles, 7.37 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | diethyl-carbamic acid 2-(4-methoxy-phenyl)-benzo[b]thiophen-6-yl ester | COC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC(N(CC)CC)=O | C20H21NO3S
reactant | water | 35 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | diethyl-carbamic acid 3-bromo-2-(4-methoxy-phenyl)-benzo[b]thiophen-6-yl ester | BrC=1C2=C(SC1C1=CC=C(C=C1)OC)C=C(C=C2)OC(N(CC)CC)=O | C20H20BrNO3S
